US07282512B2
Preparation of 2-({2-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]ethyl}sulfanyl)-1-methyl-1H-imidazole
The title compound was prepared using the same experimental procedure as in example 19a using 2-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]ethanol and 1-methyl-1H-imidazole-2-thiol. 1H NMR (300 MHz, CDCl3) δ 7.22 (s, 1H), 7.01 (s, 1H), 3.58 (s, 3H), 3.43 (s, 2H), 1.85-1.73 (m, 6H), 2.91 (t, J=6 Hz, 2H), 1.48 (s, 9H), 1.21 (t, J=4 Hz, 2H), 0.04 (s, 6H). GC-MS m/z 341 (M+H).

reactant | 2-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]ethanol | [Si](C)(C)(C(C)(C)C)OCC1(CCC1)CCO | C13H28O2Si
reactant | 1-methyl-1H-imidazole-2-thiol | CN1C(=NC=C1)S | C4H6N2S
product | 2-({2-[1-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]ethyl}sulfanyl)-1-methyl-1H-imidazole | [Si](C)(C)(C(C)(C)C)OCC1(CCC1)CCSC=1N(C=CN1)C | C17H32N2OSSi
